US05639752
5-(2,5-Dimethyl-1H-pyrrolyl)-1H-indole
A mixture of 5-aminoindole (1.32 g, 10.0 mmol), acetonylacetone (4.0 mL, 34 mmol, 3.4 eq) and toluene (25 mL) was heated at reflux under nitrogen using a Dean-Stark trap for 24 hours. The reaction was cooled and then poured through a silica gel (approximately 200 g) filter followed by 10% ether in hexanes to afford the title compound (1.52 g, 72%) as an off-white, crystalline solid: Rf =0.75 in diethyl ether; 13C NMR (CDCl3) δ135.0, 131.4, 129.5, 128.1, 125.6, 122.4, 120.3, 111.3, 105.0, 103.0, 13.2. Anal. calcd for C14H14N2 ; C, 79.97; H, 6.71; N, 13.32. Found: C, 79.72; H, 6.75; N, 13.13.

reactant | 5-aminoindole | 10.0 mmol, 1.32 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | acetonylacetone | 34 mmol, 4.0 mL, 3.4 eq | C(C(=O)C)CC(C)=O | C6H10O2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2,5-Dimethyl-1H-pyrrolyl)-1H-indole | 1.52 g, 72% | CC=1N(C(=CC1)C)C=1C=C2C=CNC2=CC1 | C14H14N2
